US07786165B2
ethyl 3-{4-[({6-(acetylamino)-4′-[(4-hydroxy-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)amino]-2-fluorophenyl}propanoate
To a solution of ethyl 3-(4-{({6-(acetylamino)-4′-[(4-hydroxy-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)[(2-nitrophenyl)sulfonyl]amino}-2-fluorophenyl)propanoate (246 mg, 0.30 mmol) and mercaptoacetic acid (62.6 μL, 0.90 mmol) in N,N-dimethylformamide (2 mL) was added lithium hydroxide monohydrate (75.5 mg, 1.80 mmol), and the mixture was stirred at room temperature for 3 days. Brine was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=7/3-ethyl acetate) to give the title compound (176 mg, yield 92%) as a colorless oil.

reactant | ethyl 3-(4-{({6-(acetylamino)-4′-[(4-hydroxy-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)[(2-nitrophenyl)sulfonyl]amino}-2-fluorophenyl)propanoate | 0.30 mmol, 246 mg | C(C)(=O)NC1=CC=C(C=C1C1=C(C=C(C=C1C)OCC1(CCS(CC1)(=O)=O)O)C)CN(C1=CC(=C(C=C1)CCC(=O)OCC)F)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C40H44FN3O11S2
reactant | mercaptoacetic acid | 0.90 mmol, 62.6 μL | SCC(=O)O | C2H4O2S
reactant | lithium hydroxide monohydrate | 1.80 mmol, 75.5 mg | O.[OH-].[Li+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | Brine | [Cl-].[Na+].O
product | ethyl 3-{4-[({6-(acetylamino)-4′-[(4-hydroxy-1,1-dioxidotetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6′-dimethylbiphenyl-3-yl}methyl)amino]-2-fluorophenyl}propanoate | 176 mg, yield 92% | C(C)(=O)NC1=CC=C(C=C1C1=C(C=C(C=C1C)OCC1(CCS(CC1)(=O)=O)O)C)CNC1=CC(=C(C=C1)CCC(=O)OCC)F | C34H41FN2O7S
